Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH hyperlipidemia presenting with syncope x 2. Patient 
was in USOH today when he felt nauseated, "woozy" and 
diaphoretic while sitting in movie theater. His wife tried to 
wake him up but he was unresponsive and snoring for approx 1 
minute. He awoke then felt fine. Approximately 10 minutes later, 
he had second episode lasting approx 30 seconds preceded by 
nausea and accompanied by "jerking" per wife. He again awoke 
feeling fine but his friends helped him to the lobby and 911 was 
called. Of note, he had relatively large ___ dinner with 
friends and ___ glasses of wine which is not unusual alcohol 
intake for him prior to this. When EMS arrived, he was laying on 
a bench with BP 70/palp. At this time, he states he was feeling 
fine. He denies CP, palpitations, SOB, bowel or bladder 
incontnence, N/V/D and decreased PO intake. Had prior h/o 
syncope x 1 ___ years ago when donating blood but no other 
episodes. Denies h/o CP or SOB with exertion and is quite active 
and exercises daily.  
.  
In the ED, initial VS: 96.6 64 122/84 16 100% NRB. He received 
1L NS. ECG was unremarkable with NSR and intervals HR 68. CXR 
unremarkable and cardiac enzymes negative x 1. VS prior to 
transfer: 68 125/81 16 100%RA.  
.  
ROS: Denies fever, chills, night sweats, weight loss, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria, lower extremity edema. Last BM this 
afternoon was normal.  

 
Past Medical History:
Hyperlipidemia  
Syncope ___ years ago in setting of not eating prior to blood 
donation  

 
Social History:
___
Family History:
No FH sudden cardiac death.  

 
Physical Exam:
Admission:
VS: 98.7 140/78 70 20 100%RA  
GENERAL - well-appearing fit man in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored 
 
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

 
Pertinent Results:
___ 11:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 11:30PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 09:05PM   GLUCOSE-104* UREA N-18 CREAT-0.9 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-28 ANION GAP-14
___ 09:05PM   cTropnT-<0.01
___ 09:05PM   CALCIUM-9.8 PHOSPHATE-4.6* MAGNESIUM-2.5
___ 09:05PM   NEUTS-51.6 ___ MONOS-4.6 EOS-2.8 
BASOS-1.2
___ 09:05PM   WBC-7.3 RBC-4.68 HGB-14.4 HCT-38.4* MCV-82 
MCH-30.7 MCHC-37.4* RDW-12.6
___ 09:05PM   PLT COUNT-354

EKG: NSR HR 68 Normal axis and intervals. JPE. No acute ST or T 
wave changes. QTc 410.  

 
Brief Hospital Course:
___ with hyperlipidemia presenting with syncope x 2, likely 
vasovagal or related to post-prandial hypotension.
.  
#. Syncope: History most c/w vasovagal vs postprandial 
hypotension.  No events on tele and no changes concerning for 
ischemia on EKG, cardiac enzymes negative x 2 and no CP, N/V/D 
so less likely due to cardiac etiology.  Also beause of 
prodrome, less likely to be arrhythmogenic.  Per hx from pt's 
wife, had myoclonic jerks, however this can happen in syncope 
and does not suggest a seizure, also did not have post-ictal 
symptoms or loss of bladder or bowel control.  Considering 
prodrome, most likely vasovagal, vs hypotension post-prandial 
with EMS recording BP as 70/P after large meal.  Patient was 
stable overnight, felt well in AM, orthostatics negative after 
receiving fluid o/n.  Was dischargd with PCP ___
.  
#. Hyperlipidema: Continued statin, ASA  
.   
# PPX: heparin SQ
# CODE: Confirmed full during admission  
 
Medications on Admission:
Simvastatin 20mg PO daily  
Aspirin 81mg PO daily  
Multivitamin  
Calcium  
Vitamin C  
No OTC supplements or herbal medications 
 
Discharge Medications:
1. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO QID (4 times a day) as needed for gi 
upset.  
5. Vitamin C 100 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen in the hospital for losing consciousness last 
night, which was most likely due to vasovagal syncope (temporary 
low blood flow to the brain, causing you to feel unwell prior to 
losing consciousness) or hypotension (low blood pressure, which 
can happen after eating).  Your heart monitor overnight, EKG, 
and bloodwork were normal.  Please discuss this with your 
primary care doctor, as you may benefit from further workup.

Changes to your medications:
No changes were made to your medications
 
Followup Instructions:
___